US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 3-(3-chloropropyl)-1-fur-2-ylmethyl-5-methyl-2,4(1H,3H)-pyrimidinedione gave 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine-1-yl}propyl)-1-fur-2-ylmethyl-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 132°-134° C.; Anal.: Calcd. for C25H29F3N4O4.(HCl)2 : C, 51.81; H, 5.39; N, 9.66%; Found: C, 51.89; H, 5.44; N, 9.55%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 3-(3-chloropropyl)-1-fur-2-ylmethyl-5-methyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(N(C=C(C1=O)C)CC=1OC=CC1)=O | C13H15ClN2O3
product | 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine-1-yl}propyl)-1-fur-2-ylmethyl-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(N(C=C(C1=O)C)CC=1OC=CC1)=O)(F)F | InChI=1S/C25H29F3N4O4.ClH/c1-19-16-31(17-20-6-4-15-35-20)24(34)32(23(19)33)10-5-9-29-11-13-30(14-12-29)21-7-2-3-8-22(21)36-18-25(26,27)28;/h2-4,6-8,15-16H,5,9-14,17-18H2,1H3;1H
